US04602016
Phosphorus pentachloride (2.08 g) was added cautiously to chlorosulphonic acid (2.91 g) and the resulting solution was cooled to 0° C. 1-(2-Phenoxyethyl)imidazole (1.88 g) was added in portions, allowing the effervescence to subside after each addition. The mixture was heated on a steam bath for 10 minutes, cooled, and poured onto a mixture of crushed ice and excess concentrated ammonia solution. The resulting gummy solid was filtered off, washed with water, sucked as dry as possible at the filter pump and chromatographed on silica gel. Elution with a mixture of chloroform and methanol (4:1) gave a gum which crystallised on trituration with a few mls. of ethanol. The solid was crystallised from ethanol to give 1-[2-(4-sulphamoylphenoxy)ethyl]imidazole (0.5 g), m.p. 147.5°-148.5° C. Found: C, 49.57; H, 4.93; N, 15.36. C11H13N3O3S requires: C, 49.42; H, 4.90; N, 15.72%.

reactant | Phosphorus pentachloride | 2.08 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | chlorosulphonic acid | 2.91 g | ClS(=O)(=O)O | ClHO3S
reactant | 1-(2-Phenoxyethyl)imidazole | 1.88 g | O(C1=CC=CC=C1)CCN1C=NC=C1 | C11H12N2O
reactant | ammonia | N | H3N
product | 1-[2-(4-sulphamoylphenoxy)ethyl]imidazole | 0.5 g | S(N)(=O)(=O)C1=CC=C(OCCN2C=NC=C2)C=C1 | C11H13N3O3S
